US07531539B2
Oxalyl chloride (8.75 mL, 100 mmol) was added to a suspension of 3-nitro-1H-pyrazole-5-carboxylic acid (7.85 g, 50 mmol) in dichloromethane (100 mL) and THF (5.00 mL) at 0° C. and one drop of DMF was then added to the reaction mixture. The reaction mixture was stirred at room temperature for 3 hours. The solvent was evaporated and the residue was redissolved in dichloromethane (100 mL). To the reaction mixture was added a solution of cyclopropanamine (4.16 mL, 60.0 mmol) and pyridine (8.09 mL, 100 mmol) in dichloromethane (10 mL) over a period of 10 minutes. The reaction mixture was stirred overnight and then diluted with ethyl acetate (50 mL), washed with water, dried over MgSO4 and concentrated in vacuo. The crude was purified by silica gel column chromatography (0-5% 2N NH3/CD3ODichloromethane) to give 9.16 g of N-cyclopropyl-3-nitro-1H-pyrazole-5-carboxamide. MS (ESI) m/z 197.1 (M+H). 1H NMR (CD3OD) δ ppm 7.38 (s, 1H), 2.81-2.86 (m, 1H), 0.82 (td, J=7.08, 5.36 Hz, 2H), 0.62-0.68 (m, 2H).

reactant | Oxalyl chloride | 100 mmol, 8.75 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-1H-pyrazole-5-carboxylic acid | 50 mmol, 7.85 g | [N+](=O)([O-])C1=NNC(=C1)C(=O)O | C4H3N3O4
reactant | cyclopropanamine | 60.0 mmol, 4.16 mL | C1(CC1)N | C3H7N
reactant | pyridine | 100 mmol, 8.09 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-3-nitro-1H-pyrazole-5-carboxamide | 9.16 g | C1(CC1)NC(=O)C1=CC(=NN1)[N+](=O)[O-] | C7H8N4O3
